US08022062B2
Use a method similar to General Procedure 7, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine (2 g, 5.2 mmol) and 2-chloro-5-(chloromethyl)pyridine (843 mg, 5.2 mmol) to give 3-tert-butoxycarbonyl-7-chloro-6-(6-chloro-pyridin-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (2.2 g, 95%). MS (ES+) m/z: 439.1 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 5.2 mmol, 2 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 2-chloro-5-(chloromethyl)pyridine | 5.2 mmol, 843 mg | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
product | 3-tert-butoxycarbonyl-7-chloro-6-(6-chloro-pyridin-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 2.2 g, 95% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC=2C=NC(=CC2)Cl | C21H24Cl2N2O2S
